US04897418
2-Bromo-3,4,5-trimethoxybenzaldehyde dimethylacetal, 3,4-dimethoxybenzaldehyde and diethyl acetylenedicarboxylate are treated in the same manner as described in Example 1-(1) & (2), whereby 1-(3,4-dimethoxyphenyl)-2,3-bis(ethoxycarbonyl)-4-hydroxy-6,7,8-trimethoxynaphthalene is obtained as colorless crystals.

reactant | 2-Bromo-3,4,5-trimethoxybenzaldehyde dimethylacetal | COC(C1=C(C(=C(C(=C1)OC)OC)OC)Br)OC | C12H17BrO5
reactant | 3,4-dimethoxybenzaldehyde | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | diethyl acetylenedicarboxylate | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
product | 1-(3,4-dimethoxyphenyl)-2,3-bis(ethoxycarbonyl)-4-hydroxy-6,7,8-trimethoxynaphthalene | COC=1C=C(C=CC1OC)C1=C(C(=C(C2=CC(=C(C(=C12)OC)OC)OC)O)C(=O)OCC)C(=O)OCC | C27H30O10
